US07582673B2
N,N′-(4-chloro-5-fluoro-1,2-phenylene)bis(1-benzothiophene-2-sulfonamide) (0.108 g) was prepared by using 4-chloro-5-fluoro-benzene-1,2-diamine (0.054 g, 0.33 mmol) and Benzo[b]thiophene-2-sulfonyl chloride (0.157 g, 0.67 mmol), following the procedure as in Example 32.

reactant | 4-chloro-5-fluoro-benzene-1,2-diamine | 0.33 mmol, 0.054 g | ClC=1C=C(C(=CC1F)N)N | C6H6ClFN2
reactant | Benzo[b]thiophene-2-sulfonyl chloride | 0.67 mmol, 0.157 g | S1C2=C(C=C1S(=O)(=O)Cl)C=CC=C2 | C8H5ClO2S2
product | N,N′-(4-chloro-5-fluoro-1,2-phenylene)bis(1-benzothiophene-2-sulfonamide) | 0.108 g | ClC1=CC(=C(C=C1F)NS(=O)(=O)C=1SC2=C(C1)C=CC=C2)NS(=O)(=O)C=2SC1=C(C2)C=CC=C1 | C22H14ClFN2O4S4
